US09376422B2
To a stirred solution of methyl 5-chloro-3-(cyclohexylamino)-2-methylbenzoate (1.2 g, 4.3 mmol) in dry DMF (15 mL), cesium carbonate (2.78 g, 8.5 mmol) and ethyl iodide (3.35 g, 21.47 mmol) were added. The resulting reaction mixture was heated at 80° C. for 18 h. On completion, the reaction mixture was cooled to room temperature and filtered, and the residue washed with ethyl acetate. The filtrate was concentrated and purified by column chromatography to afford methyl 5-chloro-3-(cyclohexyl(ethyl)amino)-2-methylbenzoate (0.25 g, 22.7%).

reactant | methyl 5-chloro-3-(cyclohexylamino)-2-methylbenzoate | 4.3 mmol, 1.2 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCCC1 | C15H20ClNO2
reactant | cesium carbonate | 8.5 mmol, 2.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 21.47 mmol, 3.35 g | C(C)I | C2H5I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | methyl 5-chloro-3-(cyclohexyl(ethyl)amino)-2-methylbenzoate | 0.25 g, 22.7% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(CC)C1CCCCC1 | C17H24ClNO2
